US08629167B2
4-(5-((1R,2S)-2-(tert-Butyldimethylsilyloxy)-1-(3-chloro-4-cyano-2-methylphenylamino)propyl)-1,3,4-oxadiazol-2-yl)phenyl sulfamate
To a 50 mL round bottomed flask, a mixture of formic acid (413 mg, 8.99 mmol) and N,N-dimethyl acetamide (30 mg, 0.09 mmol) was added to a stirred solution of chlorosulfonyl isocyanate (0.77 mL, 8.91 mmol) in dichloromethane (5 mL) at 42° C. The mixture was placed under reflux for 15 min and then cooled to ambient temperature. The resulting mixture was added to a stirred solution of 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile (346 mgs, 0.90 mmol) in N,N-dimethyl acetamide (6 mL) at ambient temperature. The mixture was then stirred for 17 h and then poured onto water (15 mL). Ethyl acetate (30 mL) was added to the mixture and the phases were partitioned. The organic phase was washed with water (12 mL) (×2), dried (Na2SO4) and concentrated to furnish a pale yellow oil (385 mg, yield not determined). 1H NMR (Acetone d6, 500 MHz) inter alia δ 8.07 (d, J=9 Hz, 2H), 7.53-7.47 (m, 3H), 6.84 (d, J=9 Hz, 2 H), 5.53 (d, J=9 Hz, 1 H), 5.22-5.17 (m, 1H), 4.77-4.68 (m, 1H), 2.37 (s, 3 H) and 1.46 (d, J=6 Hz, 3 H).

reactant | formic acid | 8.99 mmol, 413 mg | C(=O)O | CH2O2
reactant | chlorosulfonyl isocyanate | 8.91 mmol, 0.77 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 0.90 mmol, 346 mgs | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)O)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C25H31ClN4O3Si
reactant | Acetone d6 | [2H]C([2H])([2H])C(=O)C([2H])([2H])[2H] | C3H6O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | N,N-dimethyl acetamide | 6 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethyl acetamide | 0.09 mmol, 30 mg | CN(C(C)=O)C | C4H9NO
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-(5-((1R,2S)-2-(tert-Butyldimethylsilyloxy)-1-(3-chloro-4-cyano-2-methylphenylamino)propyl)-1,3,4-oxadiazol-2-yl)phenyl sulfamate | S(N)(OC1=CC=C(C=C1)C=1OC(=NN1)[C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)NC1=C(C(=C(C=C1)C#N)Cl)C)(=O)=O | C25H32ClN5O5SSi
